US06214859B1
A solution of 7.70 g (31.9 mmol) of 1-(2-naphthyl)-2-nitro-1-pentene in tetrahydrofuran (THF) (30 ml) was added dropwise to a suspension of 2.42 g (63.8 mmol) of lithium aluminum hydride (LiAlR4) in THF (40 ml) over 1 hr under ice cooling and the mixture was stirred overnight at room temperature. After excessive LiAlH4 was decomposed with distilled water under ice cooling the mixture was filtered and the filtrate was concentrated. Thereafter, ether (100 ml) was added to the concentrate and was extracted three times with 0.5 N hydrochloric acid (50 ml). The obtained water phase was alkalized with 28% aqueous ammonia and was extracted three times with ether (100 ml). The obtained organic phase was dried over anhydrous sodium sulfate, concentrated and purified by flash column chromatography. A mixture of chloroform/methanol (10:1) was used for eluting solvent, 1-(2-naphthyl)-2-aminopentane was obtained to yield 5.36 g (79%) as light yellow oil.

reactant | 1-(2-naphthyl)-2-nitro-1-pentene | 31.9 mmol, 7.70 g | C1=C(C=CC2=CC=CC=C12)C=C(CCC)[N+](=O)[O-] | C15H15NO2
reactant | lithium aluminum hydride | 63.8 mmol, 2.42 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | THF | 40 ml | O1CCCC1 | C4H8O
product | 1-(2-naphthyl)-2-aminopentane | C1=C(C=CC2=CC=CC=C12)CC(CCC)N | C15H19N
